US05077409
N-(3-Iodophenyl)-4-(tetradecyloxy)benzeneacetamide
To a solution of 14.29 g of m-iodoaniline and 15.52 g of pyridine in 150 ml of tetrahydrofuran is added at room temperature over 20 minutes a solution of p-tetradecyloxyphenylacetyl chloride in 150 ml of tetrahydrofuran. The mixture is stirred overnight and the solvent removed. The residue is partitioned between dilute hydrochloric acid and warm chloroform. The separated organic layer is washed with dilute hydrochloric acid, dried and evaporated to a residue which is crystallized from carbon tetrachloride:hexane to give 25.0 g of the desired product as a pink solid, m.p. 108°-110° C.

reactant | m-iodoaniline | 14.29 g | IC=1C=C(N)C=CC1 | C6H6IN
reactant | pyridine | 15.52 g | N1=CC=CC=C1 | C5H5N
reactant | p-tetradecyloxyphenylacetyl chloride | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)CC(=O)Cl | C22H35ClO2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | N-(3-Iodophenyl)-4-(tetradecyloxy)benzeneacetamide | 25.0 g | IC=1C=C(C=CC1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C28H40INO2
